US08334301B2
1-{1-(2-chlorophenyl)-5-[(6-methylpyridin-2-yl)thio]-1H-pyrazol-3-yl}-N-methylmethanamine
To a solution of 1-(2-chlorophenyl)-5-[(6-methylpyridin-2-yl)thio]-1H-pyrazole-3-carbaldehyde (415 mg) in tetrahydrofuran (4 mL) were added 40% methylamine-methanol solution (1.5 mL) and methanol (4 mL) at 0° C., and the mixture was stirred at room temperature for 4 hr. Sodium borohydride (905 mg) was added to the reaction mixture at 0° C. and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, water was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound as a yellow oil (yield 450 mg, yield quantitative).

reactant | 1-(2-chlorophenyl)-5-[(6-methylpyridin-2-yl)thio]-1H-pyrazole-3-carbaldehyde | 415 mg | ClC1=C(C=CC=C1)N1N=C(C=C1SC1=NC(=CC=C1)C)C=O | C16H12ClN3OS
reactant | methylamine methanol | 1.5 mL | CN.CO
reactant | methanol | 4 mL | CO | CH4O
reactant | Sodium borohydride | 905 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1-{1-(2-chlorophenyl)-5-[(6-methylpyridin-2-yl)thio]-1H-pyrazol-3-yl}-N-methylmethanamine | yield 450 mg | ClC1=C(C=CC=C1)N1N=C(C=C1SC1=NC(=CC=C1)C)CNC | C17H17ClN4S
